US06169107A
The reaction was carried out in a manner similar to Example 1 except for using 0.46 g (2.24 mmol) of methyl 1-methoxy-2-indolecarboxylate, 2.14 g (22.4 mmol) of guanidine hydrochloride and 15 ml of a methanol solution of 1.21 g (22.4 mmol) of sodium methoxide. Thus 0.15 g (24.9%) of 1-methoxy-2-indoloylguanidine hydrochloride was obtained.

reactant | methyl 1-methoxy-2-indolecarboxylate | 2.24 mmol, 0.46 g | CON1C(=CC2=CC=CC=C12)C(=O)OC | C11H11NO3
reactant | guanidine hydrochloride | 22.4 mmol, 2.14 g | Cl.NC(=N)N
reactant | sodium methoxide | 22.4 mmol, 1.21 g | C[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 1-methoxy-2-indoloylguanidine hydrochloride | 0.15 g, 24.9% | Cl.CONC(=NC(=O)C=1NC2=CC=CC=C2C1)N | InChI=1S/C11H12N4O2.ClH/c1-17-15-11(12)14-10(16)9-6-7-4-2-3-5-8(7)13-9;/h2-6,13H,1H3,(H3,12,14,15,16);1H
